US09382188B2
E) (6-chloro-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)methanol
Under a nitrogen atmosphere, to a suspension of calcium chloride (12.3 g) in ethanol (100 mL) and THF (50 mL) was added sodium tetrahydroborate (2.62 g) at 0° C., and the mixture was stirred at 0° C. for 10 min. A solution of methyl 6-chloro-5-(2-fluoro-5-methoxyphenyl)picolinate (8.30 g) in ethanol (25 mL) and THF (50 mL) was added at room temperature and the mixture was stirred for 14 hr. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was neutralized with aqueous sodium hydrogen carbonate solution. The reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (7.30 g) as a pale-gray amorphous solid.

reactant | calcium chloride | 12.3 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium tetrahydroborate | 2.62 g | [BH4-].[Na+]
reactant | methyl 6-chloro-5-(2-fluoro-5-methoxyphenyl)picolinate | 8.30 g | ClC1=C(C=CC(=N1)C(=O)OC)C1=C(C=CC(=C1)OC)F | C14H11ClFNO3
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (6-chloro-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)methanol | 7.30 g | ClC1=C(C=CC(=N1)CO)C1=C(C=CC(=C1)OC)F | C13H11ClFNO2
